US04889869
(h) benzyl 5(S)-tert.-butoxycarbonylamino-6-cyclohexyl-4(S)-hydroxy-2(R)-methyl-1-hexyl ether
A Grignard solution prepared from 3.6 g of (S)-(+)-3-benzyloxy-2-methyl-propyl bromide (A. Fischli et al., Helv. Chim. Acta 60, 925 (1977)) and 360 mg of magnesium in diethyl ether is added dropwise within 15 minutes at 0° to 1.50 g of 2(S)-tert.-butoxycarbonylamino-3-cyclohexyl-propionaldehyde (J. Boger et al., J. Med. Chem. 28, 1779 (1985)) in 15 ml of diethyl ether After 30 minutes at 0°, the reaction solution is poured onto 50 ml of 1N HCl and the crude product (diastereoisomer ratio (4S):(4R)=4:1) is extracted with dichloromethane. The desired diastereoisomer having the 4(S)-configuration is isolated in pure form by flash chromatography on 250 g of silica gel 60 (eluant dichloromethane/ether 20:1). Rf (L)=0.10.

reactant | (S)-(+)-3-benzyloxy-2-methyl-propyl bromide | 3.6 g | C(C1=CC=CC=C1)OC[C@@H](CBr)C | C11H15BrO
reactant | magnesium | 360 mg | [Mg] | Mg
reactant | 2(S)-tert.-butoxycarbonylamino-3-cyclohexyl-propionaldehyde | C(C)(C)(C)OC(=O)N[C@H](C=O)CC1CCCCC1 | C14H25NO3
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | benzyl 5(S)-tert.-butoxycarbonylamino-6-cyclohexyl-4(S)-hydroxy-2(R)-methyl-1-hexyl ether | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](COCC1=CC=CC=C1)C)O)CC1CCCCC1 | C25H41NO4
